US05210290
(a) 2-[3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]propionylamino]-2-methylacetic Acid Ethyl Ester
Under the conditions of Example 2(a), 3.152 g (10 mmol) of 3-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]propionic acid, 1.536 g (10 mmol) of L-alanine ethyl ester hydrochloride, 1.531 g (10 mmol) of hydroxybenzotriazole, hydrate, as well as 1.012 g (10 mmol) of triethylamine and 2.063 g (10 mmol) of dicyclohexylcarbodiimide are reacted and worked up analogously. The crude product is purified by column chromatography on silica gel. The title compound is eluted with ethyl acetate.

reactant | 3-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]propionic acid | 10 mmol, 3.152 g | FC1=CC(=C(C=C1)NS(=O)(=O)CCC(=O)O)C(F)(F)F | C10H9F4NO4S
reactant | L-alanine ethyl ester hydrochloride | 10 mmol, 1.536 g | Cl.C(C)OC([C@@H](N)C)=O
reactant | hydroxybenzotriazole, hydrate | 10 mmol, 1.531 g | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 10 mmol, 1.012 g | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 10 mmol, 2.063 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 2-[3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]propionylamino]-2-methylacetic Acid Ethyl Ester | C(C)OC(C(C)NC(CCS(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)=O)=O | C15H18F4N2O5S
